US05721230
A stirred solution of 770 mg (2.25 mmol) of tert.butyl [1(R or S)-[6,7,8,9-tetrahydropyrido[1,2-a]indol-8(R or S)-yl]-2-methylpropyl]carbamate (diastereomer A) in 30 ml of dichloromethane at 0° C. was treated dropwise with 287 mg (2.4 mmol) of oxalyl chloride. After 5 minutes, the solvent was removed under reduced pressure and the residue was dissolved in 30 ml of dichloromethane and treated with 686 mg (2.57 mmol) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride and 1.02 g (10 mmol) of triethylamine at 0° C. under nitrogen. After warming to room temperature, the solution was stirred for 18 hours, washed with 50 ml of water and dried over magnesium sulfate. The solvent was removed by evaporation and the residue was dissolved in 10 ml of pyridine. The stirred solution was cooled to ice bath temperature and treated dropwise with 664 μl (4.8 mmol) of trifluoroacetic anhydride. After 15 minutes, 50 ml of ethyl acetate was added and the organic phase was washed with water and 2M hydrochloric acid, dried over magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (1:2) for the elution to give 460 mg of 3-[8(R or S)-[1(R or S)-tert.butoxyformamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione (diastereomer A) as a red solid of melting point 223°-224° C.

reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indol | C1=C2C=C3N(C2=CC=C1)CCCC3 | C12H13N
reactant | carbamate | C(N)([O-])=O
reactant | oxalyl chloride | 2.4 mmol, 287 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 2.57 mmol, 686 mg | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | triethylamine | 10 mmol, 1.02 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 4.8 mmol, 664 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | CN1C=C(C2=CC=CC=C12)C1=CC(NC1=O)=O | C13H10N2O2
